US08975288B2
3-bromo-N-(1-propyl-1H-tetrazol-5-yl)benzamide (2)
Employing 0.25 g (1.2 mmol) of 3-bromo-benzoic acid and 0.16 g (1.2 mmol) of 1-propyl-1H-tetrazol-5-amine in the procedure described above and elution with CH2Cl2/MeOH/Et3N (9.8:0.1:0.1) gave the product in 34% yield.

reactant | 3-bromo-benzoic acid | 1.2 mmol, 0.25 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 1-propyl-1H-tetrazol-5-amine | 1.2 mmol, 0.16 g | C(CC)N1N=NN=C1N | C4H9N5
product | 3-bromo-N-(1-propyl-1H-tetrazol-5-yl)benzamide | 34% yield | BrC=1C=C(C(=O)NC2=NN=NN2CCC)C=CC1 | C11H12BrN5O
